US08168793B2
To a stirred solution of 1-(3,4-dimethoxy-5-nitro-phenyl)-3-dimethylamino-prop-2-en-1-one (0.5 g, 1.79 mmol) and (2-trifluoromethyl-pyridin-3-yl)-hydrazine (0.33 g, 1.87 mmol) in ethanol (10 mL) was added 10 drops of concentrated hydrochloric acid and the mixture was heated at reflux for two hours. The mixture was allowed to cool to room temperature and the resulting precipitate was filtered off, washed with ethanol and dried to give 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-pyrazol-1-yl]-2-trifluoromethyl-pyridine, 0.58 g (82%).

reactant | 1-(3,4-dimethoxy-5-nitro-phenyl)-3-dimethylamino-prop-2-en-1-one | 1.79 mmol, 0.5 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C(C=CN(C)C)=O | C13H16N2O5
reactant | (2-trifluoromethyl-pyridin-3-yl)-hydrazine | 1.87 mmol, 0.33 g | FC(C1=NC=CC=C1NN)(F)F | C6H6F3N3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | 10 drops | Cl | ClH
product | 3-[5-(3,4-dimethoxy-5-nitro-phenyl)-pyrazol-1-yl]-2-trifluoromethyl-pyridine | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=CC=NN1C=1C(=NC=CC1)C(F)(F)F | C17H13F3N4O4
